### PR TITLE
lemmas on bigcup, trivIset, and partition

### PR DESCRIPTION
**Pull request by chdoc**
##### Motivation for this change

Lemmas on partitions and related concepts needed when using partitions as colorings for graphs.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [ ] ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Review by affeldt-aist — APPROVED** [review]
This looks ok to me.
One may maybe wondering whether trivIsetD is useful since it is one two lemmas but that maybe does not hurt.
I didn't see why not using the \notin notation in partition0, it actually looks more natural in the context of this PR.
You may want to revert some of my suggestions.

**Comment by chdoc** [comment]
I just pushed some more simplifications (mainly the proof of `partition_pigenhole`); made use of the brand new `/[! _ ]` feature. I also chose to deprecate `bigcup_disjoint`, because it is merely one direction of the new `bigcup_disjointP` view lemma. Are such deprecations added to the CHANGELOG? If so, where?

File: mathcomp/ssreflect/finset.v [hunk 1]
```diff
@@ -1647,13 +1647,28 @@ apply: (iffP idP) => [sFU i Pi| sFU].
...
 Proof.
-move=> dUF; rewrite disjoint_sym disjoint_subset.
+apply: (iffP idP) => [dUF i Pp|dUF].
+  by apply: disjointWr dUF; apply: bigcup_sup.
+rewrite disjoint_sym disjoint_subset.
 by apply/bigcupsP=> i /dUF; rewrite disjoint_sym disjoint_subset.
 Qed.
 
+#[deprecated(since="mathcomp 1.13.0", note="Use bigcup_disjointP instead.")]
+Lemma bigcup_disjoint U P F :
```
Comment (CohenCyril) [inline mathcomp/ssreflect/finset.v:1668]:
```suggestion
Lemma bigcup_disjoint U P F :
```
I'd keep it, because it allows for `rewrite bigcup_disjoint`, which has no equivalent with `bigcup_disjointP`, unless you had a 3-step renaming in mind?

File: mathcomp/ssreflect/finset.v [hunk 2]
```diff
@@ -2128,6 +2235,60 @@ rewrite -(def_pblock tiQ Q_E E_A) -(def_pblock tiP _ Ax) ?(sQP E) //.
 by rewrite -(def_pblock tiQ Q_F F_B) -(def_pblock tiP _ Bx) ?(sQP F).
 Qed.
 
+Lemma indexed_partition (I T : finType) (J : {pred I}) (B : I -> {set T}) :
+  let P := [set B i | i in J] in
+  {in J &, forall i j : I, j != i -> [disjoint B i & B j]} ->
+  (forall i : I, J i -> B i != set0) -> partition P (cover P) /\ {in J&, injective B}.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/finset.v:2241]:
```suggestion
  (forall i : I, J i -> B i != set0) -> partition P (cover P) /\ {in J &, injective B}.
```

File: mathcomp/ssreflect/finset.v [hunk 3]
```diff
@@ -2128,6 +2235,60 @@ rewrite -(def_pblock tiQ Q_E E_A) -(def_pblock tiP _ Ax) ?(sQP E) //.
...
+Proof.
+move=> P disjB inhB.
+have s0NP : set0 \notin P.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/finset.v:2244]:
```suggestion
move=> P disjB inhB; have s0NP : set0 \notin P.
```

File: mathcomp/ssreflect/finset.v (hunk 1 above)
Comment (chdoc) [reply mathcomp/ssreflect/finset.v:1668]: I'm not sure I agree with this. If one adds the "customary implicits" (`Arguments bigcup_disjointP {T I U P F}.`) then `rewrite bigcup_disjoint` can be replaced by `rewrite (introT bigcup_disjointP)`. Without it one needs some parentheses and `_`. So in the unlikely case that this is really desirable, it can be done. And doesn't this argument apply to almost all reflection lemmas?

**Comment by chdoc** [comment]
Fixed, and rebased/squashed.

**Comment by chdoc** [comment]
@affeldt-aist , @CohenCyril, is there something left to be done, or can someone press the merge button?

File: mathcomp/ssreflect/finset.v [hunk 4]
```diff
@@ -2128,6 +2235,59 @@ rewrite -(def_pblock tiQ Q_E E_A) -(def_pblock tiP _ Ax) ?(sQP E) //.
...
+
+Lemma imset_disjoint (A B : {pred T}) :
+  [disjoint f @: A & f @: B] = [disjoint A & B].
+Proof.
+apply/pred0Pn/pred0Pn => /= [[? /andP[/imsetP[x xA ->]] xB]|].
+  by exists x; rewrite xA -(mem_imset (mem B) x inj_f).
+by move => [x /andP[xA xB]]; exists (f x); rewrite !mem_imset ?xA.
+Qed.
+
+Lemma imset_trivIset : trivIset P = trivIset fP.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/finset.v:2267]: This equations looks to me like it should be the other way around

File: mathcomp/ssreflect/finset.v [hunk 5]
```diff
@@ -2128,6 +2235,59 @@ rewrite -(def_pblock tiQ Q_E E_A) -(def_pblock tiP _ Ax) ?(sQP E) //.
...
+  by apply: trivP; rewrite imset_f.
+Qed.
+
+Lemma imset0mem : (set0 \in fP) = (set0 \in P).
+Proof.
+apply/imsetP/idP => [[A AP /esym/eqP]|P0]; last by exists set0; rewrite ?imset0.
+by rewrite imset_eq0 => /eqP<-.
+Qed.
+
+Lemma imset_partition : partition P D = partition fP (f @: D).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/finset.v:2282]: Same (other way around?)

Comment (chdoc) [reply mathcomp/ssreflect/finset.v:2282]: Hmm, I agree, but @affeldt-aist already merged this. :flushed:

Comment (affeldt-aist) [reply mathcomp/ssreflect/finset.v:2282]: My bad. Maybe a new, small fix-PR?
